US06414148B1
1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (145 mg, 0.75 mmol) was added to a mixture of 7-(3-carboxypropoxy)-4-(4-chloro-2-fluoroanilino)-6-methoxyquinazoline (250 mg, 0.62 mmol), (prepared as described for the starting material in Example 42), 1-methylpiperazine (0.21 ml, 2.32 mmol) and 4-dimethylaminopyridine (300 mg, 2.46 mol) in DMF (7.5 ml). The reaction mixture was stirred at ambient temperature for 24 hours and the volatiles were removed by evaporation. Water was added to the residue and the aqueous mixture was extracted with methylene chloride (3×30 ml). The combined organic extracts were washed with brine and the solvent was removed by evaporation. The residue was triturated with ether and the precipitate was collected by filtration. The solid was purified by column chromatography eluting with methylene chloride/methanol/aqueous ammonia (100/8/1). The purified product was triturated with ether collected by filtration and dried to give 4-(4-chloro-2-fluoroanilino)-6-methoxy-7-(3-(4-methylpiperazin-1-ylcarbonyl)propoxy)quinazoline (133 mg, 44%).

reactant | 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.75 mmol, 145 mg | Cl.CN(CCCN=C=NCC)C
reactant | 7-(3-carboxypropoxy)-4-(4-chloro-2-fluoroanilino)-6-methoxyquinazoline | 0.62 mmol, 250 mg | C(=O)(O)CCCOC1=C(C=C2C(=NC=NC2=C1)NC1=C(C=C(C=C1)Cl)F)OC | C19H17ClFN3O4
reactant | 1-methylpiperazine | 2.32 mmol, 0.21 ml | CN1CCNCC1 | C5H12N2
catalyst | 4-dimethylaminopyridine | 2.46 mol, 300 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DMF | 7.5 ml | CN(C)C=O | C3H7NO
product | 4-(4-chloro-2-fluoroanilino)-6-methoxy-7-(3-(4-methylpiperazin-1-ylcarbonyl)propoxy)quinazoline | 133 mg, 44% | ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCCCC(=O)N2CCN(CC2)C)C=C1)F | C24H27ClFN5O3
